US06858637B2
Bredereck's reagent (tert-butoxybis(dimethylamino)methane—16 g, 91 mmol) is added at room temperature to a solution of 2,6-dimethyl-3-nitrobromobenzene (20 g, 87 mmol) in anhydrous DMF (120 ml). The reaction mixture is heated at 120-125° C. under N2 for 5 hours or until starting material is mostly consumed according to TLC. The reaction mixture is allowed to cool to room temperature, poured into water (300 ml), and extracted with dichloromethane (100 ml×3). The combined extracts are dried over anhydrous sodium sulfate, filtered, and concentrated to obtain a mixture of enamines as a dark brown oil. This material is carried on to the next step without purification. The crude mixture is dissolved in acetic acid/water (250 ml of 4:1), cooled to 0° C. and treated with zinc dust (57 g, 870 mmol) added slowly in portions. After complete addition, the reaction mixture is heated at 110° C. for 4 h. Zinc is removed by filtration through a celite pad and the filtrate is extracted with dichloromethane (100 ml×3). The combined extracts are dried over anhydrous sodium sulfate, concentrated and purified by flash chromatography on silica get (EtOAc/Hexane 1:20) to obtain 4-bromo-5-methylindole (5.3 g) (21) as a light purple oil.

reactant | Bredereck's reagent | 91 mmol, 16 g | CC(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | 2,6-dimethyl-3-nitrobromobenzene | 87 mmol, 20 g | CC1=C(C(=CC=C1[N+](=O)[O-])C)Br | C8H8BrNO2
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
catalyst | zinc | 870 mmol, 57 g | [Zn] | Zn
product | 4-bromo-5-methylindole | 5.3 g | BrC1=C2C=CNC2=CC=C1C | C9H8BrN
